US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]butanamide
To an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (300 mg, 1.2 mmol) and triethylamine (260 μL, 1.8 mmol) in methylene chloride (50 mL) was added dropwise butyryl chloride (140 μL, 1.3 mmol) in methylene chloride (10 mL). After the addition the reaction was allowed to stir at ambient temperature for 1 h and then washed with a dilute aqueous sodium hydrogen carbonate solution. The phases were separated and the combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (95:4:0.5) as the eluent. Yield: 330 mg (86%) of the title compound as white crystals: mp 131-132° C.; [α]21D +24° (c 0.50, chloroform); EIMS (70 eV) m/z (relative intensity) 315 (39, M+).

reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 1.2 mmol, 300 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 1.8 mmol, 260 μL | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 1.3 mmol, 140 μL | C(CCC)(=O)Cl | C4H7ClO
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]butanamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(CCC)=O | C19H29N3O
